US05919779
A mixture of 4,5-di-(2-chloropyridin-3-yl)thiazole (0.047 g), 4-methoxybenzylamine (0.021 g), and diisopropylethylaamine (0.025 g) in xylene was heated in a sealed tube at 130° C. for 4 days. The solvent was evaporated, and the residue was fractionated by chromatography to give 4-[2-(4-methoxybenzylamino)pyridin-3-yl]-5-(2-chloropyridin-3-yl)thiazole (0.015 g).

reactant | 4,5-di-(2-chloropyridin-3-yl)thiazole | 0.047 g | ClC1=NC=CC=C1C=1N=CSC1C=1C(=NC=CC1)Cl | C13H7Cl2N3S
reactant | 4-methoxybenzylamine | 0.021 g | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-[2-(4-methoxybenzylamino)pyridin-3-yl]-5-(2-chloropyridin-3-yl)thiazole | 0.015 g | COC1=CC=C(CNC2=NC=CC=C2C=2N=CSC2C=2C(=NC=CC2)Cl)C=C1 | C21H17ClN4OS
